US06528543B1
A solution of 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)propionic acid (500 mg, 1.89 mmol) in methanol (15 mL) was treated slowly with concentrated sulfuric acid (3 drops). The resulting reaction mixture was heated under reflux for 15 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/3 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)propionic acid methyl ester (377 mg, 72%) as a white solid: mp 63-66° C.; EI-HRMS m/e calcd for C16H22O4S (M+) 310.1239, found 310.1230.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)propionic acid | 1.89 mmol, 500 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C15H20O4S
reactant | methanol | 15 mL | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)propionic acid methyl ester | 377 mg, 72% | COC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C16H22O4S
